US03965257
4'-Fluoro-2-[4-(α -hydroxy-α -phenylbenzyl)piperidino] -acetophenone hydrochloride hydrate
To 40 g (0.15 mole) of α,α -diphenyl-4-piperidine-methanol in 800 ml of benzene was added 16.8 g (0.2 mole) of sodium bicarbonate followed by 27.6 g (0.16 mole) of 2-chloro-4'-fluoroacetophenone in 25 ml of benzene. The mixture was stirred and refluxed for 53 hours, filtered, and the filtrate was concentrated to an oil. The oil was dissolved in diethyl ether, washed with water, dried over anhydrous magnesium sulfate, filtered and treated with ethereal HCl. The resulting precipitate was recrystallized from ethanol-water and ethanol-hexane to give the title compound, M.P. 171°-174°C, (anhydrous 231°-3°C).

reactant | α,α -diphenyl-4-piperidine-methanol | 0.15 mole, 40 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | sodium bicarbonate | 0.2 mole, 16.8 g | C([O-])(O)=O.[Na+]
reactant | 2-chloro-4'-fluoroacetophenone | 0.16 mole, 27.6 g | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
solvent | benzene | 800 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 4'-Fluoro-2-[4-(α -hydroxy-α -phenylbenzyl)piperidino] -acetophenone hydrochloride hydrate | O.Cl.FC1=CC=C(C=C1)C(CN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | InChI=1S/C26H26FNO2.ClH.H2O/c27-24-13-11-20(12-14-24)25(29)19-28-17-15-23(16-18-28)26(30,21-7-3-1-4-8-21)22-9-5-2-6-10-22;;/h1-14,23,30H,15-19H2;1H;1H2
